US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and N-(2-Methoxyethyl)ethylamine were converted to {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-(2-methoxy-ethyl)-amine which was converted to the hydrochloride by treatment with HCl in methanol to yield {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-(2-methoxy-ethyl)-amine hydrochloride as light yellow oil, MS: 463(MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | N-(2-Methoxyethyl)ethylamine | COCCNCC | C5H13NO
reactant | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-(2-methoxy-ethyl)-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CCOC)CC | C22H27BrN2O2S
reactant | hydrochloride | Cl | ClH
solvent | methanol | CO | CH4O
product | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-(2-methoxy-ethyl)-amine hydrochloride | Cl.BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CCOC)CC | InChI=1S/C22H27BrN2O2S.ClH/c1-3-25(13-15-26-2)12-4-5-14-27-19-10-11-20-21(16-19)28-24-22(20)17-6-8-18(23)9-7-17;/h6-11,16H,3-5,12-15H2,1-2H3;1H
